US07323608B2
Preparation of Phenyl 3.5-Dimethylphenol Sulfide Using Various Solvents (See FIG. 9)
CuI (0.05 mmol) and potassium carbonate (276 mg, 2.0 mmol) were added to a screw-capped test tube with a Teflon-lined septum. The tube was evacuated and backfilled with argon (3 cycles). Solvent (1.0 mL), ethylene glycol (111 μL, 2.0 mmol; for entries 2, 4, 6, 8, 10), 5-iodo-m-xylene (144 μL, 1.0 mmol) and thiophenol (103 μL, 1.0 mmol) were added by syringes at room temperature. The tube was heated to 80° C. and stirred for 20 hours. The reaction mixture was then allowed to reach room temperature. Ethyl acetate (approx. 5 mL) and dodecane (227 μL, GC standard) were added. The aliquot was analyzed by GC or GC-MS. See FIG. 9.

reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
reactant | 5-iodo-m-xylene | 1.0 mmol, 144 μL | IC=1C=C(C=C(C1)C)C | C8H9I
reactant | thiophenol | 1.0 mmol, 103 μL | C1(=CC=CC=C1)S | C6H6S
reactant | dodecane | 227 μL | CCCCCCCCCCCC | C12H26
catalyst | CuI | 0.05 mmol | [Cu]I
solvent | Ethyl acetate | approx. 5 mL | C(C)(=O)OCC | C4H8O2
product | Phenyl 3.5-Dimethylphenol Sulfide | C1(=CC=CC=C1)C12C(C=C(C=C1C)C)(O)S2 | C14H14OS
